US07138425B2
b) 2-(3-Amino-6-propylaminophenyl)-5-(3-methyl-4-chlorophenyl)benzoxazole
Prepared by the method of Example 47b), from 2-(3-nitro-6-propylaminophenyl)-5-(3-methyl-4-chlorophenyl)benzoxazole (230 mg, 0.48 mmol) and zinc (314 mg, 4.8 mmol) the subtitle compound was obtained (187 mg, 100%). MS 392.3 m/z (M+H)+.

reactant | 2-(3-nitro-6-propylaminophenyl)-5-(3-methyl-4-chlorophenyl)benzoxazole | 0.48 mmol, 230 mg | [N+](=O)([O-])C=1C=C(C(=CC1)NCCC)C=1OC2=C(N1)C=C(C=C2)C2=CC(=C(C=C2)Cl)C | C23H20ClN3O3
catalyst | zinc | 4.8 mmol, 314 mg | [Zn] | Zn
product | 2-(3-Amino-6-propylaminophenyl)-5-(3-methyl-4-chlorophenyl)benzoxazole | NC=1C=C(C(=CC1)NCCC)C=1OC2=C(N1)C=C(C=C2)C2=CC(=C(C=C2)Cl)C | C23H22ClN3O
